US05679696
A mixture of 3-cyclopentyloxy-4-difluoromethoxybenzoic acid (0.47 g; that is prepared as described in Reference Example 42) and thionyl chloride (4 mL) in toluene (10 mL) is heated at 80° C. for 2 hours, and: then evaporated under reduced pressure, to give 3-cyclopentyloxy4-difluoromethoxybenzoyl chloride (0.48 g), in the form of a pale yellow low melting solid, which is used without further purification.

reactant | 3-cyclopentyloxy-4-difluoromethoxybenzoic acid | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OC(F)F | C13H14F2O4
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopentyloxy4-difluoromethoxybenzoyl chloride | 0.48 g | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC(F)F | C13H13ClF2O3
